US08134001B2
To a solution of methyl 5-chloro-2-hydroxybenzoate (2.07 g, 11 mmol) and diisopropyl azodicarboxylate (2.98 g, 14 mmol) (Aldrich) in anhydrous tetrahydrofuran (10 mL) at 0° C. was added a mixture of trans-4-(tert-buyl-dimethyl-silanyloxy)-cyclohexanol (3.2 g, 14 mmol) and triphenylphosphine (3.64 g, 14 mmol) in tetrahydrofuran (40 mL). The reaction mixture was stirred at room temperature for 18 h. The mixture was poured into water, extracted with ethyl acetate (3×). The organic layers were combined, washed with water, brine, dried over MgSO4, and concentrated. The residue was purified by chromatography (5% EtOAc;hexanes) to give cis-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzoic acid methyl ester as a yellow oil (Yield 4.0 g, 90%).

reactant | methyl 5-chloro-2-hydroxybenzoate | 11 mmol, 2.07 g | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
reactant | diisopropyl azodicarboxylate | 14 mmol, 2.98 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | trans-4-(tert-buyl-dimethyl-silanyloxy)-cyclohexanol | 14 mmol, 3.2 g | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)O)(C)C | C12H26O2Si
reactant | triphenylphosphine | 14 mmol, 3.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | cis-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzoic acid methyl ester | Yield 4.0 g, 90% | COC(C1=C(C=CC(=C1)Cl)O[C@@H]1CC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C20H31ClO4Si
